US05753671
A solution of 5-(4-benzhydrylpiperazin-1-yl)-2-pentanone ethylene ketal (1.10 g, 2.9 mmol) in THF (25 ml) was treated with concentrated hydrochloric acid (2 ml) and stirred at room temperature overnight. The reaction mixture was evaporated to dryness before partitioning between ethyl acetate and saturated sodium bicarbonate solution. The organic layer was separated, dried over anhydrous sodium sulphate, filtered and concentrated to yield 5-(4-benzhydrylpiperazin-1-yl)-2-pentanone as a colourless oil (716 mg, 80%).

reactant | 5-(4-benzhydrylpiperazin-1-yl)-2-pentanone ethylene ketal | 2.9 mmol, 1.10 g | C1COC(C)(CCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)O1 | C24H32N2O2
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 5-(4-benzhydrylpiperazin-1-yl)-2-pentanone | 716 mg, 80% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCC(C)=O | C22H28N2O
